US08030504B2
Ethyl 1,2,3,4-tetrahydroquinoline-3-carboxylate
Ethyl quinoline-3-carboxylate (Aldrich, 15.44 g, 76.7 mmol) was added to a mixture of ethanol (150 mL) and 10% palladium on carbon (3.0 g) in a Parr shaker. The glass reactor was sealed and flushed with nitrogen, and pressurized with hydrogen (60 psi). The mixture was shaken at 50° C. for 52 hours. The solids were filtered, rinsed with methanol, concentrate under reduced pressure, and chromatographed on silica gel eluting with 5-40% ethyl acetate in hexane to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.19 (t, J=7.12 Hz, 3H), 2.83 (m, 3H), 3.17 (m, 1H), 3.39 (m, 1H), 4.09 (q, J=7.12 Hz, 2H), 5.74 (s, 1H), 6.44 (m, 2H), 6.86 (m, 2H). MS (DCI) m/z 206.10 (M+H)+.

reactant | Ethyl quinoline-3-carboxylate | 76.7 mmol, 15.44 g | N1=CC(=CC2=CC=CC=C12)C(=O)OCC | C12H11NO2
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | Ethyl 1,2,3,4-tetrahydroquinoline-3-carboxylate | N1CC(CC2=CC=CC=C12)C(=O)OCC | C12H15NO2
